US05607898
100 ml of methylene chloride was added to 13.2 g (0.064 mol) of 4,4,5,8-tetramethylthiochroman, 10.2 g (0.064 mol) of bromine was dropwise added at room temperature, and then the mixture was allowed to react for 2 hours. After the completion of the reaction, 70 ml of a 2% sodium hydrogensulfite aqueous solution was added, excessive bromine was removed, and the reaction mixture was liquid-separated. An organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The methylene chloride was distilled off under reduced pressure, and the resultant oily substance was purified by silica gel column chromatography to give 15.9 g (yield 87%) of 4,4,5,8-tetramethyl-6-bromothiochroman.

reactant | 4,4,5,8-tetramethylthiochroman | 0.064 mol, 13.2 g | CC1(CCSC2=C(C=CC(=C12)C)C)C | C13H18S
reactant | bromine | 0.064 mol, 10.2 g | BrBr | Br2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4,4,5,8-tetramethyl-6-bromothiochroman | 15.9 g, yield 87% | CC1(CCSC2=C(C=C(C(=C12)C)Br)C)C | C13H17BrS
